US05767131
2-Cyanoethyl 3-Oxonanoate:
A mixture of 2,2-dimethyl-5-(1-oxoheptyl)-1,3-dioxane-4,6-dione (29.4 mmol) and 3-hydroxypropionitrile (4.48 g, 63.0 mmol) in 25 mL of dry toluene were heated at reflux temperature for 1 hour. The solvent was removed in vacuo, and the residue was chromatographed on silica gel to give the title compound as a viscous oil, which was used in the next step after spectral characterization.

reactant | 2,2-dimethyl-5-(1-oxoheptyl)-1,3-dioxane-4,6-dione | 29.4 mmol | CC1(OC(C(C(O1)=O)C(CCCCCC)=O)=O)C | C13H20O5
reactant | 3-hydroxypropionitrile | 63.0 mmol, 4.48 g | OCCC#N | C3H5NO
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Cyanoethyl 3-Oxonanoate | O1CC(CCCCCC1)C(=O)OCCC#N | C12H19NO3
